US06586617B1
Synthesis of 4′-Chloro-2′-Carbamoyl-N-methyl-p-toluenesulfonanilide (Compound No. 79)
5-Chloro-N-methyl-N-(p-toluenesulfonyl)anthranilic acid (5.00 g (14.7 mmol)) and pyridine (1.33 ml (16.4 mmol)) were dissolved in 70.0 ml of acetonitrile. To this, under cooling with ice and with stirring, isopropyl chloroformate (2.00 g (16.3 mmol)) was added dropwise. After 30 minutes' stirring under ice-cooling, ammonia gas (ca. 1.25 g (73.4 mmol)) was bubbled into the reaction mixture. The resulting mixture was stirred under cooling with ice for 30 minutes and at room temperature for 20 hours, and then concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with water, dilute sodium hydroxide solution and water, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to give crude crystals. Diethyl ether was added to these crystals, followed by filtration and washing, to give 1.70 g (34%) of the title compound.

reactant | 5-Chloro-N-methyl-N-(p-toluenesulfonyl)anthranilic acid | 14.7 mmol, 5.00 g | ClC1=CC=C(C(C(=O)O)=C1)N(S(=O)(=O)C1=CC=C(C=C1)C)C | C15H14ClNO4S
reactant | pyridine | 16.4 mmol, 1.33 ml | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | 16.3 mmol, 2.00 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | ammonia | 73.4 mmol, ca. 1.25 g | N | H3N
solvent | acetonitrile | 70.0 ml | C(C)#N | C2H3N
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 4′-Chloro-2′-Carbamoyl-N-methyl-p-toluenesulfonanilide | 1.70 g, 34% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)C(N)=O | C15H15ClN2O3S
